US05131911
a/ Preparation of 2-benzyloxy-3-methoxy-6,β-dinitrostyrene
This compound is obtained according to the operating method described in Example 1b, in which the 2-benzyloxy-3-ethoxy-6-nitrobenzaldehyde is replaced with 2-benzyloxy-3-methoxy-6-nitrobenzaldehyde. A pale yellow powder (yield=83%, m.p.=118°-119° C.) is obtained.

reactant | 2-benzyloxy-3-ethoxy-6-nitrobenzaldehyde | C(C1=CC=CC=C1)OC1=C(C=O)C(=CC=C1OCC)[N+](=O)[O-] | C16H15NO5
reactant | 2-benzyloxy-3-methoxy-6-nitrobenzaldehyde | C(C1=CC=CC=C1)OC1=C(C=O)C(=CC=C1OC)[N+](=O)[O-] | C15H13NO5
product | 2-benzyloxy-3-methoxy-6,β-dinitrostyrene | yield=83% | C(C1=CC=CC=C1)OC1=C(C=C[N+](=O)[O-])C(=CC=C1OC)[N+](=O)[O-] | C16H14N2O6
